US07618990B2
Step 2: 1-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]imidazolidin-2-one
N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]ethane-1,2-diamine (1.1 g, 3.7 mmol), prepared in the previous step, was dissolved in 30 mL methylene chloride and triethylamine (5.1 mL, 36.9 mmol) was added. The mixture was cooled to 0° C., triphosgene (2.7 g, 9.2 mmol) was added, and the mixture was stirred for 3 h. The mixture was diluted with ethyl acetate, washed with NaHCO3, water, brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (2% methanol/methylene chloride) afforded the title compound (250 mg, 21%) as a white solid; mp 230-233° C. HRMS: calcd for C12H10BrN3OS+H+, 323.98007; found (ESI, [M+H]+), 323.9808. Analytical HPLC: retention time 9.7 min, 210-370 nm the Xterra® RP18 column, 3.5%, 150×4.6 mm 40° C. 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min, 1.2 mL/min 5 μL injection.

reactant | N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]ethane-1,2-diamine | 3.7 mmol, 1.1 g | BrC1=CC=C(C=C1)C=1N=C(SC1)NCCN | C11H12BrN3S
reactant | triethylamine | 36.9 mmol, 5.1 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 9.2 mmol, 2.7 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]imidazolidin-2-one | 250 mg, 21% | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(NCC1)=O | C12H10BrN3OS
